* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 18.7
R1 n1 a 3
R2 a nc 1
V2 nc nd DC 33.6
R3 nd ne 1
V3 b ne DC 14
V4 nf b DC 9.4
R4 nf 0 2
.op
.print dc V(a) V(b)
.end